US04879416
Preparation of 2,2'-Bis(chloromethyl)-1,1'-biphenyl
To a reaction system comprising a suspension of 2,2'-bis(hydroxymethyl)-1,1'-biphenyl (85.3 grams, 0.398 mole) in methylene chloride (500 mL) at 0° C. containing pyridine (2 mL) was added a solution of thionyl chloride (163 grams, 1.36 moles) in methylene chloride (100 mL) dropwise with stirring. The system was allowed to warm to room temperature overnight and then was stripped to a residue with a stream of nitrogen at room temperature. The residue was dissolved in toluene (100 mL), cooled to 0° C., and quenched by the addition of ice cold, saturated sodium chloride solution (100 mL). The layers were separated, the organic phase was washed with water at 0° C. (1×100 mL), the layers separated, and the organic phase dried with magnesium sulfate. The solvent was evaporated to give a thick oil which was then distilled at 125° C. to 127° C. (0.1 mm Hg) to give 91.9 grams of colorless oil which contained 71.3 g of product dichloride (71% of theoretical yield).

reactant | 2,2'-bis(hydroxymethyl)-1,1'-biphenyl | 0.398 mole, 85.3 grams | OCC1=C(C=CC=C1)C1=C(C=CC=C1)CO | C14H14O2
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 1.36 moles, 163 grams | S(=O)(Cl)Cl | Cl2OS
reactant | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2,2'-Bis(chloromethyl)-1,1'-biphenyl | 91.9 grams | ClCC1=C(C=CC=C1)C1=C(C=CC=C1)CCl | C14H12Cl2
